US07442797B2
A tetrahydrofuran solution of isopropyl magnesium chloride (11.6 ml, 2.0 M, 23.2 mmol) was added to a tetrahydrofuran (15 ml) solution of 2,6-dibromopyridine (5.0 g, 21.1 mmol), and the mixture was stirred at room temperature for 6 hours. Triethylamine (2.9 ml, 21.1 mmol) and diphenyldisulfide (5.5 g, 25.3 mmol, 1.2 equivalents) was successively added to the mixture, then the mixture was stirred at room temperature for 12 hours. The reaction mixture was poured into an aqueous saturated ammonium chloride solution, the mixture was extracted with diethylether, the solvent of organic layer was distilled off, and the residue was purified by silica gel column chromatography, thereby obtaining 2.8 g of (2-bromo-6-phenylthiopyridine) as brown oil. Yield: 49.9%.

reactant | isopropyl magnesium chloride | 23.2 mmol, 2.0 M, 11.6 ml | C(C)(C)[Mg]Cl
reactant | 2,6-dibromopyridine | 21.1 mmol, 5.0 g | BrC1=NC(=CC=C1)Br | C5H3Br2N
reactant | Triethylamine | 21.1 mmol, 2.9 ml | C(C)N(CC)CC | C6H15N
reactant | diphenyldisulfide | 25.3 mmol, 5.5 g, 1.2 equivalents | C1(=CC=CC=C1)SSC1=CC=CC=C1 | C12H10S2
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | tetrahydrofuran | 15 ml | O1CCCC1 | C4H8O
product | 2-bromo-6-phenylthiopyridine | 2.8 g, Yield: 49.9% | BrC1=NC(=CC=C1)SC1=CC=CC=C1 | C11H8BrNS
